US06423704B1
Treat a stirred solution of 5-methyltetrazole (0.38 g, 4.52 mmol, obtained from TCI US) and dimethylformamide (7 mL) at 0° C. portionwise with sodium hydride (0.19 g, 4.75 mmol, 60% dispersion in oil). Allow to warm to room temperature over one hour and add a solution of 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)-[1,4]diazepane (0.1.33 g, 3.03 mmol, Preparation 28) and dimethylformamide (7 mL). Heat at 100° C. for 6 hours. Cool, add ethyl acetate (50 mL) and wash with saturated NaHCO3 (3×25 mL) and brine (3×50 mL). Dry (MgSO4) the organic phase, filter and concentrate in vacuo. Purify the residue by chromatography (silica gel, 3.5×50 cm) eluting with ethyl acetate:hexane (1:1) to afford 4-{1-[2-(5-methyl-tetrazol-1-yl}-ethyl]-1H-benzoimidazol-2-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.45 g), Rf=0.21 (silica gel, methanol:dichloromethane, 1:1).

reactant | 5-methyltetrazole | 4.52 mmol, 0.38 g | CC1=NN=NN1 | C2H4N4
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 4.75 mmol, 0.19 g | [H-].[Na+]
reactant | 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)-[1,4]diazepane | 3.03 mmol | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOS(=O)(=O)C)C=CC=C2 | C20H30N4O5S
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-{1-[2-(5-methyl-tetrazol-1-yl}-ethyl]-1H-benzoimidazol-2-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.45 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCN1N=NN=C1C)C=CC=C2 | C21H30N8O2
